Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
penicillin V
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o F s/p mechanical fall in Back ___, during which time she
tripped on a sidewalk, and landed on her left hip and knee. She
also hit her right forehead on the cement. She was walking with
her son, who partially caught her, so her head had minimal
impact. She denied loss of consciousness, but had a right
forehead abrasion, for which wound care done. 

In the ED, initial VS were 99.0, HR 61, BP 145/94, RR 16.
Labs showed H/H of 9.3/30.4. BMP WNL. Troponin negative x 1. 
CT Head negative. CT Cspine negative.
CT lower extremity negative for acute fracture.
CXR significant for ventral venous congestion, possible early
pulmonary edema, and patchy airspace opacities at the lung bases
suggestive of superimposed infection/aspiration.
She was given CTX and azithromycin for possible pneumonia.

Upon arrival to the floor, the patient is very hard of hearing 
so
the history is slightly limited. She reports she has not seen a
doctor in years. She has no medical problems that she knows
about. She reports she was walking with her son in Back ___ when
she tripped on uneven sidewalk and fell and hit the cement. She
denies loss of consciousness or headstrike. She denies feeling
dizzy, or having chest pain. She reports that she has
longstanding shortness of breath with exertion, but states this
occurs after walking half a mile. She otherwise denies fevers,
chills, diarrhea, dysuria. She endorses post nasal drip and a 
dry
cough. She endorses left leg numbness and pain. It is difficult
to pinpoint the pain in her left leg. She describes it as
"vague." 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Hypothyroidism
- HLD
- Hearing loss
- HTN
- H pylori
- Iron deficiency 
- Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Denies FH of cardiac problems.

 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, very hard of hearing
EYES: Anicteric, pupils equally round
ENT: Abrasion over right lip and near R eyebrow
Mucous membranes moist 
CV: Heart irregular, + systolic ejection murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
BACK: No spinal tenderness
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: grip strength ___ bilaterally, plantar/dorsiflexion ___
bilaterally, initially, very limited motion of R knee, however,
on revaluation, will bend knee against gravity and with some
resistance, will flex hip slightly
SKIN: facial abrasions as described above
EXT: + DP pulses of both foot equal 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LABS:
___ 05:03PM BLOOD WBC-7.1 RBC-3.96 Hgb-9.3* Hct-30.4* 
MCV-77* MCH-23.5* MCHC-30.6* RDW-18.6* RDWSD-50.8* Plt ___
___ 07:06AM BLOOD WBC-7.9 RBC-4.03 Hgb-9.6* Hct-31.2* 
MCV-77* MCH-23.8* MCHC-30.8* RDW-18.7* RDWSD-52.1* Plt ___
___ 05:03PM BLOOD Neuts-76.8* Lymphs-12.6* Monos-6.8 
Eos-2.8 Baso-0.4 Im ___ AbsNeut-5.43 AbsLymp-0.89* 
AbsMono-0.48 AbsEos-0.20 AbsBaso-0.03
___ 07:00AM BLOOD Glucose-86 UreaN-13 Creat-0.7 Na-144 
K-3.6 Cl-103 HCO3-26 AnGap-15
___ 05:03PM BLOOD Glucose-102* UreaN-13 Creat-0.7 Na-140 
K-4.2 Cl-102 HCO3-25 AnGap-13
___ 05:03PM BLOOD ALT-7 AST-13 LD(LDH)-158 CK(CPK)-43 
AlkPhos-88 TotBili-0.3
___ 05:03PM BLOOD cTropnT-<0.01
___ 05:03PM BLOOD proBNP-1092*
___ 07:00AM BLOOD calTIBC-445 Ferritn-12* TRF-342
___ 07:00AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.0 Iron-58

IMAGING:
Left Femur 4 views ___
Although there is no convincing fracture, there is a small to
moderate-sized joint effusion, sometimes may be associated with
occult fracture or quadriceps injury. 

CXR ___
Suspected early pulmonary edema.  Patchy airspace opacities at
the lung bases, although may represent alveolar edema, are
suspicious for superimposed infection/aspiration, for clinical
correlation. 

CT CSPINE ___
1. No acute fracture or traumatic malalignment. 
2. Benign-appearing fatty lucency within the left lateral mass 
of
the C2 vertebra, may represent area of fatty marrow adjacent to
the venous plexus, small hemangioma or less likely intraosseous
lipoma. 
3. Given presence chondrocalcinosis in the cervical spine, lower
extremity involving the pubic symphysis and knee, patient may
have CPPD. 
  
CT Lower Extremity ___
1. No acute fracture or dislocation. 
2. There is no joint effusion or lipohemarthrosis.  Apparent
density over the suprapatellar recess, likely artifactual and 
due
to confluent shadow on recent radiograph. 
3. No large retracted quadriceps or patellar tendon tear,
although there is likely remote injury to the rectus femoris on
the basis of chronic appearing dystrophic calcifications. 

CT HEAD  ___
No acute intracranial posttraumatic sequela. 

L ANKLE ___
Diffusely osteopenic bones. No acute displaced fractures or
dislocations. 

 
Brief Hospital Course:
___ year old woman with history of anemia (Hb ___ and HTN (not 
on medication) admitted after a mechanical fall. Trauma survey 
including CT head/C-spine and L knee x-ray notable only for 
moderate knee effusion. Incidentally found to be in AFib on 
routine EKG. Patient declined anticoagulation or further 
evaluation with TTE. CXR on admission abnormal (edema vs 
infection vs inflammation) however patient asymptomatic so did 
not receive treatment. ___ evaluated and recommended rehab 
however patient declined, and was discharged home (she lives 
with children) with ___ and home ___. After thorough discussion, 
patient signed MOLST form changing code status to DNR/DNI.

TRANSITIONAL ISSUES:
- Newly diagnosed atrial fibrillation, patient declined further 
evaluation with TTE and anticoagulation; daughter/patient 
open/amenable to discussion of aspirin and were made aware of 
its limited efficacy in this scenario
- Abnormal CXR of unclear clinical relevance, can consider 
further evaluation with repeat CXR and possible chest CT if 
patient desires
- Signed MOLST indicating DNR/DNI

ACUTE ISSUES:
#L knee effusion
#Fall: Mechanical, witnessed fall with headstrike onto L knee. 
CT head/neck without bleed or fracture. L knee plain film with 
moderate effusion, no major fracture, unable to rule out smaller 
fracture. AROM and PROM limited by joint effusion. Ligaments 
intact on exam. Evaluated by ___ who recommended rehab however 
patient declined, arranged home ___ and ___. Pain control with 
tylenol, ice, NSAIDs after ~72 hours due to possible 
hemarthrosis.

# Atrial fibrillation: Newly diagnosed, rates well controlled. 
CHADSVASC at least 3 (age, sex). Patient declined 
anticoagulation and understood risks of stroke. Also declined 
TTE. Prior to discharge, the patient's daughter inquired about 
taking aspirin for stroke prevention. I informed her that 
aspirin is not typically recommended given the efficacy of 
anticoagulants; I suggested that the data for aspirin is weak, 
suggesting a possibly a 20% reduction in stroke risk, however, 
also an increase in bleeding risk, similar to that of the 
anticoagulants. I have encouraged her to continue to discuss 
this with her outpatient providers. 

#Abnormal CXR
#Elevated BNP: Patient declines significant respiratory 
symptoms. Did not want further evaluation with TTE given would 
not take any recommended medications or have any procedures. 
Received one dose of CTX/azithromycin in ED, no further 
antibiotics.

#GOC: After thorough code status discussion, given preferences 
for avoiding medical care, patient signed MOLST changing code 
status to DNR/DNI

CHRONIC ISSUES:
#Hearing loss: Patient has declined hearing aides, however 
concern her deafness will contribute to cognitive decline
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mechanical fall
Atrial fibrillation
Knee effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after you fell on your knee. 
The physical therapists thought you would benefit from rehab, 
but you preferred to return home. We discussed your abnormal 
heart rhythm, atrial fibrillation, which is where the top 
portions of the heart quiver. This heart rhythm increases your 
risk for stroke and the risk of stroke can be decreased by 
taking a blood thinner medication. We spoke about aspirin as a 
possible alternative. The research suggests that there is some, 
but not a strong benefit of taking aspirin for this reason. I 
encourage you to continue to discuss blood thinners with your 
primary care doctor. 

You should take acetaminophen (tylenol) to treat your pain. 
Taking Tylenol three times a day can really improve pain so that 
you can participate in physical therapy. You should avoid NSAIDs 
(i.e. ibuprofen, naproxen) for the next 2 days as they might 
worsen your knee swelling, but then can start ibuprofen to help 
with pain.

During this hospital stay, we also signed a MOLST form which you 
should put on your refrigerator. We've scheduled a follow up 
appointment for you and hope that you keep it! 

It was a pleasure participating in your care,

Your ___ Team
 
Followup Instructions:
___